US08193402B2
Benzene was alkylated with isobutylene in batch-type reactor. The reactor was loaded with 1.25 g of Beta Zeolite CP 814E (Zeolyst International) and 55.5 mL (48.75 g) of benzene, sealed into the reactor, and the reactor was then purged with nitrogen. 11.4 g of isobutylene were then loaded into the reactor and the reactor was pressurized with N2 to 500 psi. The reaction was carried out at 180° C. for 2 hours. The reactor was then cooled to room temperature, depressurized and the liquid product was analyzed by GC. t-Butylbenzene was produced in 38% yield.

reactant | isobutylene | CC(C)=C | C4H8
reactant | benzene | 55.5 mL, 48.75 g | C1=CC=CC=C1 | C6H6
product | t-Butylbenzene | 38% yield | C(C)(C)(C)C1=CC=CC=C1 | C10H14
